US09334269B2
To 2-chloro-5-fluoro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidine (90.0 mg, 0.302 mmol) and 3-amino-N-methylbenzamide (49.9 mg, 0.333 mmol) in a disposable sealed tube in 2-propanol (2.50 mL) was added trifluoroacetic acid (0.070 mL, 0.907 mmol). The resulting reaction mixture was heated at 84° C. for 3 d, cooled to RT and concentrated. The residue was stirred in EtOAc and saturated aqueous NaHCO3 for 10 min and transferred to a reparatory funnel. The organic layer was washed with brine, dried and concentrated giving 3-(5-fluoro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide (124.8 mg).

reactant | 2-chloro-5-fluoro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidine | 0.302 mmol, 90.0 mg | ClC1=NC=C(C(=N1)N1CC(C1)OC1=CC=C(C=C1)F)F | C13H10ClF2N3O
reactant | 3-amino-N-methylbenzamide | 0.333 mmol, 49.9 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | trifluoroacetic acid | 0.907 mmol, 0.070 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-propanol | 2.50 mL | CC(C)O | C3H8O
product | 3-(5-fluoro-4-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide | 124.8 mg | FC=1C(=NC(=NC1)NC=1C=C(C(=O)NC)C=CC1)N1CC(C1)OC1=CC=C(C=C1)F | C21H19F2N5O2
